US07906660B2
A mixture of 4′,7-dihydroxy-8-methylisoflavone (2.9 g, 10.8 mmol), acetic anhydride (18 ml) and pyridine (3 ml) was heated on an oil bath at 105-110° C. for 1 h. After cooling the mixture to room temperature, it was stirred for a further 30 min during which time the diacetate crystallised from the solution. The product was filtered, washed thoroughly with water and recrystallised from ethyl acetate to yield 4′,7-diacetoxy-8-methylisoflavone as colourless prisms (3.2 g, 84%). 1H NMR (CDCl3): δ 2.31 (s, 3H, CH3), 2.32, 2.39 (each s, 3H, OCOCH3), 7.13 (d, 1H, J 9.0 Hz, H6), 7.17 (d, 2H, J 8.7 Hz, ArH), 7.59 (d, 2H, J 8.7 Hz, ArH), 8.07 (s, 1H, H2), 8.19 (d, 1H, J 8.7 Hz, H5).

reactant | 4′,7-dihydroxy-8-methylisoflavone | 10.8 mmol, 2.9 g | OC1=CC=C(C2=COC3=C(C(=CC=C3C2=O)O)C)C=C1 | C16H12O4
reactant | acetic anhydride | 18 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | diacetate | CC(=O)CC(=O)O | C4H6O3
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 4′,7-diacetoxy-8-methylisoflavone | 3.2 g, 84% | C(C)(=O)OC1=CC=C(C2=COC3=C(C(=CC=C3C2=O)OC(C)=O)C)C=C1 | C20H16O6
